### PR TITLE
Bicategory pre post

### PR DESCRIPTION
**Pull request by patrick-nicodemus**
This PR defines a wild bicategory. This is a rewrite of the previous PR, because my original definition of a `1Bicat` was too far from the definition of a `1Cat`, making it a lot of work to port work using `1Cat`s to use `1Bicat`s instead. 
Also, with my original definition using `Is0Bifunctor` there are two different ways to whisker a 2-cell with a 1-cell that are not in any way related, and this seems like a potential pitfall.

On the other hand, the definition of a `Bicategory` is more of a departure from the current definition of a `(2,1)`-category, in that it assumes that the associator is natural as a functor on `(a $-> b) * (b $-> c) * (c $-> d)$` rather than being natural in each argument separately. This definition is more complex because it uses products and uncurrying, but I preferred the style, and there's not as much material in the library for (2,1)-cats as there is for 1-cats so refactoring is not as much of an issue.

- The first commit defines a 1-bicategory (which is a wild 1-category without the requirement that 2-cells are invertible) and a bicategory; it refactors the definition of (2,1)-category to extend bicategory; all (2,1)-categories (the path groupoid of a type, the universe Type, pType) are rewritten as bicategories. While writing the proofs that pType is a bicategory I took care to try and reuse the same proofs for Type in many places. A few helper lemmas in constructing the (2,1)-category of paths are extracted and put in `PathGroupoid.v`. Notation is introduced for vertical pasting.
- In the second commit, a definition is given to upgrade a 1-bicategory to a 1-category when 2-cells are invertible; all near-duplicate definitions from the first commit are deduplicated.
- The third commit better integrates `AreInverse` into the library by rewriting `Is1Gpd` to depend on `AreInverse`.

### CODE REVIEW

**Comment by jdchristensen** [comment]
I haven't had time to look at this.  I was hoping @Alizter might get a chance, but if not, I'll add it to my list.

**Comment by Alizter** [comment]
I have been very busy these past few weeks unfortunately and didn't have the brain-power to think about this.

File: theories/WildCat/TwoOneCat.v [hunk 1]
```diff
@@ -1,79 +1,132 @@
...
-Definition cat_prewhisker_pp {A} `{Is21Cat A} {a b c : A}
-  {f g h : b $-> c} (k : a $-> b) (p : f $== g) (q : g $== h)
-  : (p $@ q) $@R k $== (p $@R k) $@ (q $@R k)
+Definition cat_prewhisker_pp {A} `{IsBicat A} {a b c : A}
+  {f g h : b $-> c} (k : a $-> b) (p : f $=> g) (q : g $=> h)
+  : (p $| q) $@R k $== (p $@R k) $| (q $@R k)
   := fmap_comp _ _ _.
+Proof.
+  rapply fmap_comp.
+Defined.
```
Comment (jdchristensen) [inline theories/WildCat/TwoOneCat.v]: I guess this was removed in a later commit, but it would be better to fix this commit so that the library builds after each commit (and to make it easier to review this one commit at a time).

File: theories/WildCat/TwoOneCat.v [hunk 2]
```diff
@@ -1,79 +1,132 @@
...
-  (** Coherence *)
-  cat_pentagon : forall (a b c d e : A)
-                        (f : a $-> b) (g : b $-> c) (h : c $-> d) (k : d $-> e),
-      (k $@L cat_assoc f g h) $o (cat_assoc f (h $o g) k) $o (cat_assoc g h k $@R f)
-      $== (cat_assoc (g $o f) h k) $o (cat_assoc f g (k $o h)) ;
-
-  cat_tril : forall (a b c : A) (f : a $-> b) (g : b $-> c),
-      (g $@L cat_idl f) $o (cat_assoc f (Id b) g) $== (cat_idr g $@R f)
+    (p : f $=> f') (p' : g $=> g'),
+    (p' $@R f) $| (g' $@L p) $== (g $@L p) $| (p' $@R f');
```
Comment (jdchristensen) [inline theories/WildCat/TwoOneCat.v:97]: It would have been better to make the change to the notation in a separate commit, as the diff is now harder to read.

File: theories/WildCat/TwoOneCat.v [hunk 3]
```diff
@@ -1,79 +1,132 @@
...
+Notation "a $| b" := (cat_comp (A:=Hom _ _) b a) : twocat.
+
+Instance is0bifunctor_bicat_comp (A : Type) `{Is1Bicat A} (a b c : A)
+  : Is0Bifunctor (cat_comp (a:=a) (b:=b) (c:=c))
+  := Build_Is0Bifunctor'' _.
+
+Instance Is0Functor_swap (A: Type) `{Is1Bicat A} (a b c : A)
+  : Is0Functor (fun '(f,g) => cat_comp (a:=a) (b:=b) (c:=c) g f).
+Proof.
+  change (fun p => snd p $o fst p) with (fun p => (Types.Forall.flip (cat_comp (a:=a) (b:=b) (c:=c)) (fst p) (snd p))).
```
Comment (jdchristensen) [inline theories/WildCat/TwoOneCat.v:63]: You should import Types.Forall to avoid needing to annotate it.

File: theories/WildCat/TwoOneCat.v [hunk 4]
```diff
@@ -1,79 +1,132 @@
...
-      (g $@L cat_idl f) $o (cat_assoc f (Id b) g) $== (cat_idr g $@R f)
+    (p : f $=> f') (p' : g $=> g'),
+    (p' $@R f) $| (g' $@L p) $== (g $@L p) $| (p' $@R f');
+  isnatural_bicat_assoc :: forall {a b c d : A},
+    Is1Natural
+      (fun '(f,g,h) => (h $o g) $o f)
+      (fun '(f,g,h) => h $o (g $o f))
+      (fun '(f,g,h) => bicat_assoc (Is1Bicat:=H) (a:=a) (b:=b) (c:=c) (d:=d) f g h);
+  areinv_bicat_assoc :: forall {a b c d : A} (f : a $-> b) (g : b $-> c) (h : c $-> d),
+    AreInverse (bicat_assoc f g h) (bicat_assoc_opp f g h);
```
Comment (jdchristensen) [inline theories/WildCat/TwoOneCat.v:104]: The two AreInverse fields seem to be new.  Are they needed at this point?  Will we still get definitional equality of the double-op?  (That's the whole motivation for having both associative laws.)

File: theories/WildCat/TwoOneCat.v [hunk 5]
```diff
@@ -1,79 +1,132 @@
...
   apply bifunctor_coh_comp.
 Defined.
+
+(** *** Exchange law *)
+
+Definition cat_exchange {A : Type} `{IsBicat A} {a b c : A}
+  {f f' f'' : a $-> b} {g g' g'' : b $-> c}
+  (p : f $=> f') (q : f' $=> f'') (r : g $=> g') (s : g' $=> g'')
+  : (p $| q) $@@ (r $| s) $== (p $@@ r) $| (q $@@ s)
+  := fmap11_comp _ _ _ _ _.
```
Comment (jdchristensen) [inline theories/WildCat/TwoOneCat.v:151]: It's great that the proof here is so much simpler, but I'm having trouble seeing what exactly makes this possible.  Could `$@@` have been defined differently (using fmap11) before this PR to make this short proof work?

File: theories/WildCat/TwoOneCat.v [hunk 6]
```diff
@@ -1,79 +1,132 @@
...
+
+Instance Is0Functor_swap (A: Type) `{Is1Bicat A} (a b c : A)
+  : Is0Functor (fun '(f,g) => cat_comp (a:=a) (b:=b) (c:=c) g f).
+Proof.
+  change (fun p => snd p $o fst p) with (fun p => (Types.Forall.flip (cat_comp (a:=a) (b:=b) (c:=c)) (fst p) (snd p))).
+  rapply (is0functor_bifunctor_uncurried (Forall.flip (cat_comp))).
+  rapply is0bifunctor_flip.
+Defined.
+
+Notation "alpha $@@ beta" := (fmap11 cat_comp beta alpha) : twocat.
```
Comment (jdchristensen) [inline theories/WildCat/TwoOneCat.v:68]: Now there are two meanings for `$@@`.  Is the plan to unify them?

File: theories/WildCat/Universe.v [hunk 7]
```diff
@@ -147,25 +154,50 @@ Proof.
...
+Local Notation hcomp := (fmap11 compose (Is0Bifunctor0:=is0bifunctor_bicat_comp Type _ _ _)).
+Lemma Type_associator_natural (A B C D: Type)
+  (f f': A -> B) (g g': B -> C) (h h': C -> D)
+  (p : f == f') (q : g == g') (r : h == h') (x : A)
+  : hcomp (hcomp r q) p x @ 1 = 1 @ hcomp r (hcomp q p) x.
 Proof.
-  snapply Build_Is21Cat.
-  1-4, 6-7: exact _.
-  - intros a b c f g h k p q x; cbn.
+  unfold Bifunctor.fmap11, Prod.fmap_pair; simpl.
```
Comment (jdchristensen) [inline theories/WildCat/Universe.v:163]: Import Bifunctor and Prod.

File: theories/WildCat/Paths.v [hunk 8]
```diff
@@ -70,9 +70,9 @@ Instance is1cat_paths {A : Type} : Is1Cat A
 (** Any type is a 1-groupoid with morphisms given by paths. *)
 Instance is1gpd_paths {A : Type} : Is1Gpd A.
 Proof.
-  snapply Build_Is1Gpd.
-  - exact (@concat_pV A).
-  - exact (@concat_Vp A).
+  intros a b f; constructor.
+  - exact (@concat_pV A _ _ _).
+  - exact (@concat_Vp A _ _ _).
```
Comment (jdchristensen) [inline theories/WildCat/Paths.v:75]: `apply concat_pV.` and `apply concat_Vp.` work and are cleaner.

File: theories/WildCat/Paths.v [hunk 9]
```diff
@@ -48,33 +48,38 @@ Proof.
...
 Defined.
 
 (** Any type is a 2-category with higher morphisms given by paths. *)
-Instance is21cat_paths {A : Type} : Is21Cat A.
```
Comment (jdchristensen) [inline theories/WildCat/Paths.v:74]: Did you forget to show prove `Is21Cat A` at the end?

File: theories/WildCat/Core.v [hunk 10]
```diff
@@ -171,6 +171,12 @@ Record RetractionOf {A} `{Is1Cat A} {a b : A} (f : a $-> b) :=
     is_retraction : comp_left_inverse $o f $== Id a
   }.
 
+Class AreInverse {A} `{Is1Cat A} {a b : A} (f : a $-> b) (g : b $-> a) :=
+  {
+    inv_issect : g $o f $== Id a;
+    inv_isretr : f $o g $== Id b;
+  }.
```
Comment (jdchristensen) [inline theories/WildCat/Core.v:178]: We also have `Cat_IsBiInv` which uses bi-invertibility.  Maybe it makes sense to have these separate, but it's worth thinking about.

**Review by jdchristensen — COMMENTED** [review]
I've made a first pass through.  Feel free to do an interactive rebase and a force push to move the changes from the "undid change to master" commit into the earlier commit(s), but it'll be easier to review if other changes are made as additional commits.

BTW, I'm not sure what "pre post" means in the title of this PR.

I didn't comment on notation, as that is being discussed in #2271.

I'm hoping that @Alizter will have time to take a look, maybe after my feedback has been addressed.

File: theories/WildCat/TwoOneCat.v [hunk 11]
```diff
@@ -1,79 +1,132 @@
...
+Require Import WildCat.Bifunctor.
+
+Declare Scope twocat.
+Notation "f $=> g" := (Hom (A:=Hom _ _) f g) : twocat.
+Local Open Scope twocat.
 
 (** * Wild (2,1)-categories *)
 
-Class Is21Cat (A : Type) `{Is1Cat A, !Is3Graph A} :=
+(** ** Wild 1-categorical structures *)
```
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/WildCat/TwoOneCat.v:13]: Also, please explain the difference between Is1Bicat and IsBicat.

**Comment by patrick-nicodemus** [comment]
Sorry, the name was just a lazy way of distinguishing it from the previous PR, because the definition of `IsBicat` takes pre-and post-whiskering as fundamental, as opposed to a binary horizontal composition operation for 2-cells.

File: theories/WildCat/TwoOneCat.v (hunk 6 above)
Comment (patrick-nicodemus) [reply theories/WildCat/TwoOneCat.v:68]: It makes sense to unify them. I'll take another look at this PR and figure out whether it's appropriate for the current PR or would require extensive refactoring.

File: theories/WildCat/TwoOneCat.v (hunk 11 above)
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/WildCat/TwoOneCat.v:13]: `Is1Bicat` is:
- the theory which is the intersection of `Is1Cat` and `IsBicat`
- exactly the fragment of `IsBicat` which can be expressed in the language of 0-cells, 1-cells and 2-cells

[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/WildCat/TwoOneCat.v:13]: Oh, you mean in the comments. Yes, understood.

[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/WildCat/TwoOneCat.v]: Added some new comments here

File: theories/WildCat/TwoOneCat.v (hunk 4 above)
Comment (patrick-nicodemus) [reply theories/WildCat/TwoOneCat.v:112]: I'll look into it. It could end up being that `co` is definitionally involutive and/or `op` is definitionally involutive and/or `coop` is definitionally involutive, but not all three.

**Review by jdchristensen — COMMENTED** [review]
This is looking good.  I especially like the new comments which make it much easier to understand what you are doing.  As you mention, there are a couple more comments to respond to.  And I think it would be a good time for @Alizter to take a look at this PR if he is able to.
